US06118001
4-Methoxy-1-(2-Phenylethylsulfanyl)benzene
A solution of 4-methoxybenzene thiol (5.7 g), triethylamine (4.1 g) and 2-bromoethylbenzene (5.6 ml) in DMF (50 ml) at 0° C. was stirred for 2 h, then added to water and extracted with ether. The solvent was washed with water, 1M NaOH and brine, then dried and evaporated to give the title compound as colourless oil (8.9 g, 95%).

reactant | 4-methoxybenzene thiol | 5.7 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromoethylbenzene | 5.6 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-Methoxy-1-(2-Phenylethylsulfanyl)benzene | 8.9 g, 95% | COC1=CC=C(C=C1)SCCC1=CC=CC=C1 | C15H16OS
